US06884801B1
N-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-2-(methylthio)aniline (16.8 g, 76 mmol) was stirred in methanol (250 mL) and cooled in an ice bath. A solution of m-chloroperoxybenzoic acid (37 g of ˜70 wt %) in methanol (200 mL) was added dropwise over 1 hour while the temperature of the mixture was maintained below 28° C. After 20 minutes, additional m-chloroperoxybenzoic acid (2.0 g) was added and stirring continued for 20 minutes. The reaction mixture was reduced in vacuo to a slurry (˜40 mL volume), diluted with water (250 mL) and ethyl acetate (250 mL), and treated with 10N sodium hydroxide (15 mL). The ethyl acetate phase and five additional ethyl acetate extracts (100 mL each) were combined and washed with 0.1N NaOH (50 mL). Additional 10N sodium hydroxide (10 mL) was added to the aqueous phase and two ethyl acetate extracts (100 mL each) were collected and washed with 0.1N NaOH (10 mL) and all of the ethyl acetate phases combined. Drying (MgSO4) followed by evaporation gave N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(methylsulfonyl)aniline (12.3 g, 48.5 mmol), which was dissolved in ethyl acetate (450 mL). Fumaric acid (5.6 g, 48.5 mmol) was dissolved in methanol (80 mL) and the ethyl acetate solution of N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(methylsulfonyl)aniline was added to the rapidly stirred methanolic solution of fumaric acid. The mixture was stored at 4° C. for 16 hours and the resulting crystals were collected and dried in vacuo to give N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(methylsulfonyl)aniline as the fumaric acid salt (12.8 g, 45%).

reactant | N-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-2-(methylthio)aniline | 76 mmol, 16.8 g | N1C(=NCC1)CNC1=C(C=CC=C1)SC | C11H15N3S
reactant | m-chloroperoxybenzoic acid | 37 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | m-chloroperoxybenzoic acid | 2.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydroxide | 10N, 15 mL | [OH-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 250 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(methylsulfonyl)aniline | 48.5 mmol, 12.3 g | N1C(=NCC1)CNC1=C(C=CC=C1)S(=O)(=O)C | C11H15N3O2S
